US03996229
15.7 G. of 10,11-dihydro-3-methoxy-8-methylthio-dibenzo[b,f]thiepin-10-ol, 250 ml. of benzene and 6 g. of finely powdered calcium chloride are saturated with hydrogen chloride gas at 15° C. within 2.5 hours and then stirred for an additional 3 hours. After the addition of 0.8 g. of active carbon, the precipitate is removed by filtration and washed with benzene. The benzene phase is evaporated under reduced pressure, and there is obtained 10-chloro-10,11-dihydro-3-methoxy-8-methylthio-dibenzo[b,f]thiepin having a melting point of 120°-123° C.

reactant | 10,11-dihydro-3-methoxy-8-methylthio-dibenzo[b,f]thiepin-10-ol | COC=1C=CC2=C(SC3=C(C(C2)O)C=C(C=C3)SC)C1 | C16H16O2S2
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 10-chloro-10,11-dihydro-3-methoxy-8-methylthio-dibenzo[b,f]thiepin | ClC1CC2=C(SC3=C1C=C(C=C3)SC)C=C(C=C2)OC | C16H15ClOS2
